US05025025
To a solution of 0.32 g (0.57 mmol) of t-butyl 8-(p-chlorophenylsulfonamido)-4-(3-iodopropyl)octanoate in 3 mL dry dimethylformamide is added 0.116 g (1.7 mmol) imidazole and the mixture is then refluxed with ethyl acetate and washed with water and brine. The organic layer is dried, filtered, concentrated and then subjected to chromatography using ethyl acetate as eluent to yield t-butyl 8-(p-chloro- phenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoate; IR (neat): 1718, 1337, 1164 cm-1 ; NMR (CDCl3): delta 7.5 (br,1H), 7.1 (s,1H), 6.9 (s,1H), 4.2 (t,2H).

reactant | t-butyl 8-(p-chlorophenylsulfonamido)-4-(3-iodopropyl)octanoate | 0.57 mmol, 0.32 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC(C)(C)C)CCCI | C21H33ClINO4S
reactant | imidazole | 1.7 mmol, 0.116 g | N1C=NC=C1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | t-butyl 8-(p-chloro- phenylsulfonamido)-4-[3-(1-imidazolyl)propyl]octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC(C)(C)C)CCCN1C=NC=C1 | C24H36ClN3O4S
